US05143920
Ethyl 2-butyryl-3-(2-acetylphenylamino)acrylate (14.8 g, 48.8 mmol) was added to boiling diphenyl ether (50 ml) and heated at reflux for 3.5 hours. After cooling, the solution was poured into ether, and the solid filtered off and washed with ether to obtain 3-butyryl-8-acetyl-4(1H)-quinolone (8.8 g), contaminated with some diphenyl ether. This material was used without further purification.

reactant | Ethyl 2-butyryl-3-(2-acetylphenylamino)acrylate | 48.8 mmol, 14.8 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)C(C)=O | C17H21NO4
reactant | diphenyl ether | 50 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ether | CCOCC | C4H10O
product | 3-butyryl-8-acetyl-4(1H)-quinolone | 8.8 g | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)C(C)=O | C15H15NO3
